US05643878
c) 5(S)-(Boc-amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(2,4-difluorophenyl)methyl]-hexanoic acid
Analogously to Example 1j), 3.2 g (7.12 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(2,4-difluorophenyl)methyl]-hexanoic acid in 67 ml of DMF are silylated with 4.93 g (32.7 mmol) of tert-butyldimethylchlorosilane and 3.97 g (58.4 mmol) of imidazole. Hydrolysis of the silyl ester function with 5.9 g of potassium carbonate in 77 ml of methanol, 20 ml of THF and 20 ml of water yields the title compound after column chromatography (SiO2, hexane/ethyl acetate 2:1): TLC Rf (D)=0.22; tRet (I)=20.8 min.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(2,4-difluorophenyl)methyl]-hexanoic acid | 7.12 mmol, 3.2 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=C(C=C(C=C1)F)F)O)CC1=CC=CC=C1 | C24H29F2NO5
reactant | tert-butyldimethylchlorosilane | 32.7 mmol, 4.93 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 58.4 mmol, 3.97 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 5.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 67 ml | CN(C)C=O | C3H7NO
solvent | methanol | 77 ml | CO | CH4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 5(S)-(Boc-amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(2,4-difluorophenyl)methyl]-hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=C(C=C(C=C1)F)F)O[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C30H43F2NO5Si
